US09126993B2
2-(1-aza-bicyclo[2.2.2]oct-3-yl)-N-[1-(3-isopropyl-phenyl)-1-methyl-ethyl]-acetamide
Using general procedure I, (1-aza-bicyclo[2.2.2]oct-3-yl)-acetic acid (200 mg, 1.20 mmol) and 1-(3-isopropyl-phenyl)-1-methyl-ethylamine gave the title compound as a white solid (42 mg, 10%). 1H NMR (400 MHz, DMSO-d6) δ 7.15-1.20 (m, 3H), 7.05 (d, J=8.4 Hz, 1H), 3.41-3.45 (m, 1H), 3.26 (s, 2H), 3.15-3.22 (m, 2H), 2.71-2.82 (m, 2H), 2.41-2.47 (m, 3H), 2.05-2.12 (m, 1H), 1.79-1.90 (m, 4H), 1.61 (d, J=8.0 Hz, 6H), 1.21 (d, J=6.4 Hz, 6H) ppm. 13C NMR (400 MHz, DMSO-d6) δ 171.1, 148.7, 147.3, 128.1, 123.9, 122.8, 122.2, 55.6, 52.1, 46.5, 45.9, 38.8, 34.5, 30.7, 28.9, 28.5, 23.8, 23.4, 18.0 ppm. Purity: 96.8% HPLCMS (210 nm); retention time 1.93 min; (M+1) 329.

reactant | (1-aza-bicyclo[2.2.2]oct-3-yl)-acetic acid | 1.20 mmol, 200 mg | N12CC(C(CC1)CC2)CC(=O)O | C9H15NO2
reactant | 1-(3-isopropyl-phenyl)-1-methyl-ethylamine | C(C)(C)C=1C=C(C=CC1)C(C)(C)N | C12H19N
product | 2-(1-aza-bicyclo[2.2.2]oct-3-yl)-N-[1-(3-isopropyl-phenyl)-1-methyl-ethyl]-acetamide | 42 mg, 10% | N12CC(C(CC1)CC2)CC(=O)NC(C)(C)C2=CC(=CC=C2)C(C)C | C21H32N2O
